US04041159
Preparation of 4-dipropylamino-N methylthio-N-methyl-3,5-dinitrobenzenesulfonamide
A 1.1 g (0.012 mol) sample of methylsulfenyl chloride was added dropwise to a cooled (-5° to -10° C.) solution of 3.6 g (0.01 mol) 4-dipropylamino-N-methyl-3,5-dinitrobenzenesulfonamide and 1.1 g (0.014 mol) pyridine in 25 ml dichloromethane. The reaction mixture was then stirred at about 0° C. until the sulfonamide reactant could not be detected by thin layer chromatography on silica gel (benzene/acetone eluant). The reaction mixture was then washed with water, dried over magnesium sulfate and evaporated under reduced pressure to give a yellow semi-solid residue. The residue was recrystallized from ethanol to give 2.3 g of the product, as a yellow solid, m.p. 119°-121° C. Elemental analysis for C14H22N4O6S2 showed: % S, calc. 15.8, found 15.9.

reactant | methylsulfenyl chloride | CSCl | CH3ClS
reactant | 4-dipropylamino-N-methyl-3,5-dinitrobenzenesulfonamide | 0.01 mol, 3.6 g | C(CC)N(C1=C(C=C(C=C1[N+](=O)[O-])S(=O)(=O)NC)[N+](=O)[O-])CCC | C13H20N4O6S
reactant | pyridine | 0.014 mol, 1.1 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 4-dipropylamino-N methylthio-N-methyl-3,5-dinitrobenzenesulfonamide | 2.3 g | C(CC)N(C1=C(C=C(C=C1[N+](=O)[O-])S(=O)(=O)N(C)SC)[N+](=O)[O-])CCC | C14H22N4O6S2
